* C:\users\harry\Documents\CProjects\H533\contents\circuits\LLC.asc
* Generated by LTspice 24.1.9 for Windows.
M1 N006 N009 0 0 BSC100N06LS3
V3 N002 N006 PULSE(0 20 {(T*dead_pct/100)/2} {T/rising_c} {T/rising_c} { T/2 - (T*dead_pct/100)/2 - T/rising_c } {T})
V2 N009 0 PULSE(0 20 {T/2+(T*dead_pct/100)/2} {T/rising_c} {T/rising_c} { T/2 - (T*dead_pct/100)/2 - T/rising_c } {T})
C1 N007 N006 {C_r}
L1 N008 N007 {L_r}
L2 N011 N008 {L_m}
L3 0 N005 {sqrt(N_Tx)*L_m}
L4 N010 0 {sqrt(N_Tx)*L_m}
D1 N010 N004 D
D2 N005 N003 D
C2 P001 0 {C_o}
R2 N004 0 {R_o}
R5 N004 N003 {R_pa}
R6 P001 N004 {R_pa}
V4 N001 0 12
R1 N011 0 {R_pa}
M2 N001 N002 N006 N006 BSC100N06LS3
.model D D
.lib C:\users\harry\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\harry\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=204k T={1/f} dead_pct=0 R_pa=100u rising_c=40
.param C_r=235n L_r=2.7u L_m=13.7u N_Tx=2
.param C_o=560u R_o=1
.tran 0 {300*T} {0*T} {T/50}
k L2 L3 L4 0.999
.backanno
.end
